US07868047B2
Experiment 35. 2-i-Propyl-5-[2-(2,4,6-trifluorophenyl)ethenyl]-1,3-benzenediol (43B)
This material was prepared from 1-(3,5-dimethoxy-4-1-propylphenyl)2-(2,4,6-trifluorophenyl)ethene and pyridine hydrochloride in 14% yield in the same way as described in Example 29. 1HNMR (CDCl3, ppm): δ 1.42 (d, J=7.1 Hz, 6H), 3.50 (qint, J=7.1 Hz, 1H), 4.77 (br, 2H), 6.55 (s, 2H), 6.59-7.24 (m, 4H).

reactant | 1-(3,5-dimethoxy-4-1-propylphenyl)2-(2,4,6-trifluorophenyl)ethene | COC=1C=C(C=C(C1CCC)OC)C=CC1=C(C=C(C=C1F)F)F | C19H19F3O2
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 2-i-Propyl-5-[2-(2,4,6-trifluorophenyl)ethenyl]-1,3-benzenediol | 14% yield | C(C)(C)C1=C(C=C(C=C1O)C=CC1=C(C=C(C=C1F)F)F)O | C17H15F3O2
